US04363917
Example 17: 3-n-Butylthio-5-nitrophthalic anhydride
883 mg (3 mmols) of 3-n-butylthio-5-nitrophthalic acid N-methylimide are kept under reflux overnight in 9 ml of 1 N sodium hydroxide solution and the mixture is acidified with 10 ml of 2 N hydrochloric acid and, after 5 minutes under reflux, cooled. The mixture is extracted with tetrahydrofuran/toluene and the extracts are washed with saturated NaCl solution, dried over sodium sulfate and evaporated. The resulting acid is converted to the anhydride with 1 ml of acetic anhydride and 10 ml of toluene, by heating and evaporation. After recrystallisation from cyclohexane, 790 mg (94% of theory) of the title anhydride are obtained as a yellow product; melting point: 95°-97° C.

reactant | 3-n-butylthio-5-nitrophthalic acid N-methylimide | 3 mmols, 883 mg | CN=C(C=1C(C(=O)O)=C(C=C(C1)[N+](=O)[O-])SCCCC)O | C13H16N2O5S
reactant | hydrochloric acid | 2 N, 10 ml | Cl | ClH
solvent | sodium hydroxide | 1 N, 9 ml | [OH-].[Na+]
product | 3-n-Butylthio-5-nitrophthalic anhydride | C(CCC)SC1=C2C(C(=O)OC2=O)=CC(=C1)[N+](=O)[O-] | C12H11NO5S
